US07326788B2
c. Trifluoro-methanesulfonic acid 6-cyano-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester
To a mixture of 5-cyano-2-[2-(3-methyl-isoxazol-5-yl)-acetylamino]-benzoic acid methyl ester (1.00 g, 3.34 mmol) in 30 ml of DMSO at rt was added KO'Bu (809 mg, 6.85 mmol). The mixture was stirred at rt for 15 min under Ar, N-phenyltrifluoromethanesufonimide (2.53 g, 7.02 mmol) was added. The mixture was stirred at rt for 1 h. Treated with 150 ml of EtOAc, the mixture was washed with H2O (2×50 ml). The combined aqueous layers were extracted with EtOAc (2×30 ml). The combined org. layers were washed with H2O (2×50 ml), brine (50 ml) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (10-25% EtOAc/DCM) gave 670 mg (50%) of product as a white solid: 1H-NMR (CD3OD, 400 MHz) δ8.20 (d, 1H, J=1.7 Hz), 7.99 (dd, 1H, J=8.6, 1.7 Hz), 7.56 (d, 1H, J=8.6 Hz), 7.17 (s, 1H), 2.40 (s, 3H). Mass spectrum (ESI, m/z): Calcd. for C15H8F3N3O5S, 400.0 (M+H), found 399.9.

reactant | 5-cyano-2-[2-(3-methyl-isoxazol-5-yl)-acetylamino]-benzoic acid methyl ester | 3.34 mmol, 1.00 g | COC(C1=C(C=CC(=C1)C#N)NC(CC1=CC(=NO1)C)=O)=O | C15H13N3O4
reactant | N-phenyltrifluoromethanesufonimide | 7.02 mmol, 2.53 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | Trifluoro-methanesulfonic acid 6-cyano-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester | 670 mg, 50% | C(#N)C=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C)OS(=O)(=O)C(F)(F)F | C15H8F3N3O5S
